US09060519B2
1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanol (120 mg, 0.5 mmol) was dissolved in 1,2-dichloroethane (10 ml). Pyridinium chlorochromate (216 mg, 1 mmol) was added to the reaction mixture. The reaction mixture was stirred at 70° C. for 3 hours, cooled to ambient temperature, poured onto a silica gel plug and eluted with dichloromethane. The eluent was evaporated under reduced pressure, and the residue dried to dryness to get 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone in form of a white solid. 1H NMR (300 Mz, DMSO-d6): δ: 9.17 (s, 1H), 8.75 (d, 1H, J=4.8 Hz), 8.37 (d, 1H, J=8.1 Hz), 7.58 (m, 1H), 2.66 (s, 3H).

reactant | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanol | 0.5 mmol, 120 mg | ClC=1N=C(SC1C(C)O)C=1C=NC=CC1 | C10H9ClN2OS
reactant | Pyridinium chlorochromate | 1 mmol, 216 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone | ClC=1N=C(SC1C(C)=O)C=1C=NC=CC1 | C10H7ClN2OS
